US04806549
Ethyl 2-butyryl-3-(phenylamino)acrylate (70 g, 0.27 mol) was added in portions to boiling diphenyl ether (500 ml), then heated at reflux for 1.5 hours. After partial cooling, the mixture was poured into high boiling petroleum ether. Filtration and washing with petroleum ether gave 3-butyryl-4(1H)-quinolone (47 g) as a pale solid, which was used without further purification.

reactant | Ethyl 2-butyryl-3-(phenylamino)acrylate | 0.27 mol, 70 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=CC=CC=C1 | C15H19NO3
solvent | diphenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-4(1H)-quinolone | 47 g | C(CCC)(=O)C1=CNC2=CC=CC=C2C1=O | C13H13NO2
